US09079866B2
Solid 4-chloro-2-fluorobenzeneboronic acid (10.0 g, 57.4 mmol), 2-amino-5-bromopyridine (9.92 g, 57.4 mmol), palladium (II) trifluoroacetate (0.381 g, 1.15 mmol), and triphenylphosphine (0.602 g, 2.29 mmol) were combined in a 1 L flask under nitrogen, then toluene (150 mL), EtOH (150 mL), and 2 M Na2CO3 (100 mL) were added. The mixture was sparged with nitrogen for 30 min using a gas dispersion tube, then heated at 80° Celsius for 20 hours with vigorous stirring. The mixture was cooled to rt, diluted with EtOAc (200 mL), and transferred to a separatory funnel. The aqueous phase was removed, and the organic phase washed with brine. The combined aqueous phases were extracted with an equal volume of EtOAc, and the combined organic phases were dried and concentrated to dryness. The residue was subjected to FCC to provide 5-(4-chloro-2-fluorophenyl)pyridin-2-amine (9.10 g, 71%). MS (CI): mass calcd. for C11H8CFN2, 222.04; m/z found, 223.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.54-8.22 (s, 2H), 8.22-8.18 (d, J=2.1, 1H), 8.15-8.10 (m, 1H), 7.68-7.58 (m, 2H), 7.48-7.38 (m, 1H), 7.16-7.06 (d, J=9.3, 1H).

reactant | 4-chloro-2-fluorobenzeneboronic acid | 57.4 mmol, 10.0 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | 2-amino-5-bromopyridine | 57.4 mmol, 9.92 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 2 M, 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium (II) trifluoroacetate | 1.15 mmol, 0.381 g | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
catalyst | triphenylphosphine | 2.29 mmol, 0.602 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | EtOH | 150 mL | CCO | C2H6O
product | 5-(4-chloro-2-fluorophenyl)pyridin-2-amine | 9.10 g, 71% | ClC1=CC(=C(C=C1)C=1C=CC(=NC1)N)F | C11H8ClFN2
